US07745641B2
In a similar manner to Step 1 of Example 227, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0951 g, 0.206 mmol) was dissolved in acetonitrile (4.0 mL), and the solution was treated with triethylamine (0.0860 mL, 0.618 mmol) and 3-thiophenesulfonyl chloride (0.0754 g, 0.412 mmol) to obtain 4-(3-thiophenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0796 g, yield 64%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.206 mmol, 0.0951 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.618 mmol, 0.0860 mL | C(C)N(CC)CC | C6H15N
reactant | 3-thiophenesulfonyl chloride | 0.412 mmol, 0.0754 g | S1C=C(C=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
product | 4-(3-thiophenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0796 g, yield 64% | S1C=C(C=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C31H33N3O6S2
